US07528164B2
2-Amino-4-(4-acetoxy-3-bromo-5-methoxyphenyl)-3-cyano-7-methyl-4H-pyrrolo[2,3-h]chromene
To a mixture of 2-bromo-4-formyl-6-methoxyphenyl acetate (273 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) in 10 mL of ethanol was added 4-hydroxy-1-methylindole (147 mg, 1 mmol) and the solution was stirred at room temperature overnight. The solvent was removed in vacuo. The crude material was purified by column chromatography (2:1, hexane:ethyl acetate) to yield 25 mg (5.3%) of the title compound 1H NMR (CDCl3): 7.07-7.04 (m, 2H), 6.92 (s, 1H), 6.79-6.77 (m, 2H), 6.57 (s, 1H), 4.81 (s, 1H), 4.70 (s, 2H), 3.79 (s, 6H), 2.34 (s, 3H).

reactant | 2-bromo-4-formyl-6-methoxyphenyl acetate | 1 mmol, 273 mg | C(C)(=O)OC1=C(C=C(C=C1OC)C=O)Br | C10H9BrO4
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | 4-hydroxy-1-methylindole | 1 mmol, 147 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Amino-4-(4-acetoxy-3-bromo-5-methoxyphenyl)-3-cyano-7-methyl-4H-pyrrolo[2,3-h]chromene | 25 mg, 5.3% | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC(C)=O)Br)N(C=C3)C | C22H18BrN3O4
